US04880802
2-(2-Ethoxycarbonylamino-ethyl)amino-8-methoxy-1,2,3,4-tetrahydronaphthalene
10.0 g (159 mmol) of sodium cyanoborohydride were added to the solution of 7.00 g (40 mmol) of 8-methoxy-2-tetralone, 8.00 g (61 mmol) of N-(2-aminoethyl)ethylcarbamate and 9.60 g (160 mmol) of glacial acetic acid at 0° C. After 15 hours at room temperature, the mixture was concentrated, taken up in tert.-butyl methyl ether, and treated with water. The pH of the aqueous phase was adjusted to 10 using sodium hydroxide solution. The mixture was stirred vigorously for 30 minutes. The organic phase was separated off, and the aqueous phase was extracted thoroughly with the last-mentioned solvent. Drying the organic phase and concentrating supplied an oil, which was purified by chromatography on silica gel (toluene/ethanol gradients with addition of 0.3% triethylamine). 5.40 g (46%) of the pure title compound were obtained as a brownish oil.

reactant | sodium cyanoborohydride | 159 mmol, 10.0 g | C(#N)[BH3-].[Na+]
reactant | 8-methoxy-2-tetralone | 40 mmol, 7.00 g | COC=1C=CC=C2CCC(CC12)=O | C11H12O2
reactant | N-(2-aminoethyl)ethylcarbamate | 61 mmol, 8.00 g | NCCN(C([O-])=O)CC
reactant | acetic acid | 160 mmol, 9.60 g | C(C)(=O)O | C2H4O2
product | 2-(2-Ethoxycarbonylamino-ethyl)amino-8-methoxy-1,2,3,4-tetrahydronaphthalene | 5.40 g, 46% | C(C)OC(=O)NCCNC1CC2=C(C=CC=C2CC1)OC | C16H24N2O3
